US04409018
2-(4-Bromo-2-fluorophenyl)-3-(N-ethylthiocarbamoylthio)-2,3,4,5,6,7-hexahydro-1H-isoindol-1-one
In 20 ml of dichloromethane was dissolved 3.4 g of 2-(4-bromo-2-fluorophenyl)-2,3,4,5,6,7-hexahydro-3-mercapto-1H-isoindol-1-one, and 1.0 g of ethyl isothiocyanate, together with one drop of triethylamine, was added to the solution, followed by stirring at room temperature for 5 hours. The dichloromethane was distilled off under reduced pressure, and the resulting crystals were washed with cold ethanol and dried, thereby producing 3.8 g (yield of 88%) of the subject compound. Recrystallization from ethanol yielded white crystals, m.p. 130°-131° C.

reactant | 2-(4-bromo-2-fluorophenyl)-2,3,4,5,6,7-hexahydro-3-mercapto-1H-isoindol-1-one | 3.4 g | BrC1=CC(=C(C=C1)N1C(C=2CCCCC2C1S)=O)F | C14H13BrFNOS
reactant | ethyl isothiocyanate | 1.0 g | C(C)N=C=S | C3H5NS
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
catalyst | triethylamine | one drop | C(C)N(CC)CC | C6H15N
product | 2-(4-Bromo-2-fluorophenyl)-3-(N-ethylthiocarbamoylthio)-2,3,4,5,6,7-hexahydro-1H-isoindol-1-one | 3.8 g, yield of 88% | BrC1=CC(=C(C=C1)N1C(C=2CCCCC2C1SC(NCC)=S)=O)F | C17H18BrFN2OS2
